US08404676B2
Intermediate 5: 4-Morpholin-4-yl-3-nitrobenzoic acid
A mixture of ethyl 4-fluoro-3-nitrobenzoate (Chontech 01072; 500 mg; 2.35 mmol; 1 eq.) and morpholine (Fluka 69880; 613.06 mg; 7.04 mmol; 3 eq.) in DMF (2 mL) was stirred at 50° C. for 3 hours. The reaction was then allowed to return to room temperature and diluted with water. Extraction with ethyl acetate, drying over sodium sulfate and concentration in vacuo gave a yellow oil. The latter was taken up in THF (15 mL) and lithium hydroxide (280.86 mg; 11.73 mmol; 5 eq.) was added followed by water (15 mL). The reaction mixture was stirred at room temperature for 5 hours. The THF was evaporated and the residue diluted with water. The aqueous phase was washed with Et2O and acidified to pH 5 with acetic acid. Extraction with Et2O followed by drying over magnesium sulfate and concentration in vacuo afforded the title compound (548 mg, 93%) as a yellow solid.

reactant | ethyl 4-fluoro-3-nitrobenzoate | 2.35 mmol, 500 mg, 1 eq. | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | morpholine | 7.04 mmol, 613.06 mg, 3 eq. | N1CCOCC1 | C4H9NO
reactant | lithium hydroxide | 11.73 mmol, 280.86 mg, 5 eq. | [OH-].[Li+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 4-Morpholin-4-yl-3-nitrobenzoic acid | 548 mg, 93% | N1(CCOCC1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H12N2O5
